Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ year old woman
with a history of hypertension, Bipolar disorder, who presented
to an OSH with low back pain. There she was found to have 
urinary
retention (PVR 800) with spine XRAY revealing compression
deformity of T12-L1 vertebrae. She was transferred to ___ for
further evaluation with MRI spine. 

In the ED, initial vitals were:
Pain 10 98.5 90 144/99 20 94%RA
Labs were notable for: CBC not checked, chemistry WNL, UA with
moderate leuk, neg nitrite, few bacteria

Given her history-Code cord was called and she was evaluated by
the neurology team. Neurology advised further evaluation with 
MRI
and consideration of spine consultation pending results of the
MRI.

Imaging: (prelim)
- L1 fracture concerning for pathologic fracture with underlying
enhancing lesion. Moderate spinal canal narrowing with no
evidence of cauda equine compression.  
- A combination of osteophytosis, posterior disc
bulge/protrusion, and ligamentum flavum thickening resulting in
severe spinal canal narrowing and probable root compression at
L4-L5 and L5-S1. 
- Multilevel cervical and thoracic spondylosis with as much as
moderate spinal canal narrowing at C5-C6 and C6-C7. 
- Incidental findings include a huge hiatal hernia containing
stomach and probably small bowel, small right pleural effusion,
trace left pleural effusion, large cervical and thoracic
perineural cysts.

Spine surgery was consulted. Patient was evaluated and her MRI
was reviewed. Given no radicular symptoms, weakness,
incontinence, saddle anesthesia no urgent neurosurgical
intervention was advised. The fracture at L1 and MRI read was
concerning for possible underlying lesion. Admission to medicine
was advised for metastatic workup. 

She was given:
- Dilaudid 0.5mg IV x1
- NS 500cc
- Trazodone 50 mg
- Lithium 150mg
- Olanzapine 2.5 mg
- Ceftriaxone 1g to cover dirty UA

She was transferred to the floor for ongoing management.

On the floor, she is comfortable, but endorses ___ back pain.

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or
gain. Denies headache, sinus tenderness, rhinorrhea or
congestion. Denies cough, shortness of breath. Denies chest pain
or tightness, palpitations. Denies nausea, vomiting, diarrhea,
constipation or abdominal pain. She does not feel that she has
been retaining urine and denies irritative symptoms. No dysuria.
Denies arthralgias or myalgias. 10 pt ros otherwise negative.

 
Past Medical History:
Hypertension
Bipolar disorder
Depression
GERD

 
Social History:
___
Family History:
Sister with cancer (patient unsure what kind) and Alzheimer's
disease. 
 
Physical Exam:
Vitals: 97.6 PO 146 / 89 79 18 95 RA 
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENT: MMM, oropharynx clear,
Neck: Supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no
organomegaly, no rebound or guarding
GU: Foley draining clear urine
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact, no saddle
anesthesia 
SKIN: no rashes or lesions
PSYCH: Pleasant, euthymic
 
Pertinent Results:
On Admission:
___ 09:15AM BLOOD WBC-12.9* RBC-4.84 Hgb-14.8 Hct-45.5* 
MCV-94 MCH-30.6 MCHC-32.5 RDW-12.8 RDWSD-44.1 Plt ___
___ 09:15AM BLOOD Neuts-80.8* Lymphs-9.3* Monos-7.1 Eos-1.8 
Baso-0.5 Im ___ AbsNeut-10.55* AbsLymp-1.22 AbsMono-0.93* 
AbsEos-0.23 AbsBaso-0.06
___ 07:55PM BLOOD Glucose-97 UreaN-19 Creat-0.8 Na-136 
K-3.8 Cl-98 HCO3-27 AnGap-15
___ 07:55PM BLOOD ALT-9 AST-14 LD(LDH)-225 AlkPhos-83 
TotBili-0.7
___ 09:15AM BLOOD Calcium-9.8 Phos-3.6 Mg-1.6
___ 07:55PM BLOOD TotProt-6.3*
___ 09:15AM BLOOD Lithium-0.4*

Imaging:
___ MRI
1. Study is moderately degraded by motion. 
2. Fracture of L1 vertebral body demonstrating abnormal bone
marrow signal, which may be related to marrow contusion although
possibility of an underlying pathologic fracture is not 
excluded.
Question of enhancement posterior to L1 vertebral body, which 
may
represent vascular congestion, although enhancing soft tissue
component is not excluded. Attention on follow-up examination is
recommended. 
3. Multilevel lumbar spondylosis with L5 and L5-S1 severe spinal
canal stenosis causing deformity of the thecal sac with crowding
of the cauda equina nerve roots. 
4. Severe neural foraminal narrowing at L4-L5 and L5-S1,
compressing the traversing the exiting nerve roots as detailed
above. 
5. Mild cervical spondylosis and thoracic spondylosis with
multiple perineural cysts, as described above. 
6. Small bilateral pleural effusions. 
7. Nonspecific T2 hypointense left renal lesion, without 
definite
enhancement although incompletely characterized on this study. 
Recommend correlation with outside imaging, or consider
ultrasound/MRI to further assess. 
8. Large right-sided probable Bochdalek hernia. 
 
MICRO:
___ STOOL C. difficile DNA amplification 
assay-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, 
Routine-PRELIMINARY {STAPHYLOCOCCUS, COAGULASE NEGATIVE}; 
Aerobic Bottle Gram Stain-FINAL EMERGENCY WARD 
___ URINE URINE CULTURE-FINAL 

 
Brief Hospital Course:
Ms. ___ is an ___ year old woman with a history of 
hypertension, Bipolar disorder, who presented to an OSH with low 
back pain, found to have L1 fracture and urinary retention, 
transferred to ___ for MRI and further neurologic
evaluation, admitted for malignancy workup. 

# Multilevel lumbar spondylosis 
# Severe neural foraminal narrowing
# Mild cervical spondylosis: Patient was evaluated in the 
emergency room by the neurosurgery team. Her imaging was 
reviewed. Discussed with the neurosurgery team findings "severe 
spinal canal stenosis causing deformity of the thecal sac with
crowding of the cauda equina nerve roots." Per neurosurgery, no 
need for surgical intervention. Admission was advised for workup 
of possible metastatic disease as a cause of ?pathologic L1 
fracture. She was advised to wear LSO brace when OOB. She was 
seen by physical therapy who advised rehab. Pain was somewhat 
controlled with tramadol. However, given continued symptoms and 
risk of serotonin syndrome with her other medications, she was 
converted to PO oxycodone at the time of discharge. This was not 
given during admission. She was seen by neurology. She was noted 
to have right arm weakness c/w a cervical polyradiculopathy and 
evidence of atrophy suggestive of a chronic problem. She may 
benefit from an EMG in the outpatient setting. She is advised to 
wear soft cervical collar at night. She will need to f/u with 
neurosurgery as an outpt in ___ weeks. 

[ ]Activity
   [ ]LSO Back brace when OOB or HOB > 30. ___ be placed on at
the edge of the bed. Should remain on for showering. 

[ ]Follow-up
   [ ]Please call ___ for a Neurosurgery follow-up  
     appointment with Dr. ___ in ___ weeks.

# L1 fracture: Patient was admitted given concern for pathologic 
L1 fracture and malignancy workup. Discussed patient's history 
and presentation with family at bedside. Differential for her 
fracture includes primary sarcoma of the bone, metastatic 
cancer, multiple myeloma vs osteoporosis. She does not carry a 
formal diagnosis of osteoporosis per family but it can be 
reasonably expected in a woman of her age. CBC is without 
anemia, chemistry panel without renal failure or hypercalcemia 
to suggest multiple myeloma. No cross-sectional imaging is 
available in our system to evaluate for evidence of primary 
malignancy. Discussed with family that most likely etiology for 
her fracture is osteoporosis (might have been further 
precipitated by multiple falls at home) though ongoing 
malignancy workup can be pursued as an outpatient. Spep/upep 
negative. Outpt eval for osteoporosis. Started on calcium and 
vitamin D

# Urinary retention: Patient was found to have urinary retention 
at the OSH, foley placed for PVR 900. UA concerning for UTI and 
she has been started on CTX. Neurosurgery reviewed MRI given 
concern for cord compression- no requirement for surgical 
intervention. UCx with mixed flora but pt got 3 days of ctx. She 
passed her voiding trial and did not have any further 
difficulties. 

# Bipolar disorder:
- Continued home buproprion
- Continued home lithium
- Continued home olanzapine
- Continued home fluoxetine
- Checked lithium levels per neurology recommendations

# Hypertension
- Continued home HCTZ
- Continued home amlodipine
- Continued home lisinopril

# GERD: Continued omeprazole

Proxy name: ___   
Phone: ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lithium Carbonate 150 mg PO QHS 
2. OLANZapine 2.5 mg PO QHS 
3. TraZODone 50 mg PO QHS:PRN insomnia 
4. amLODIPine 10 mg PO DAILY 
5. BuPROPion 100 mg PO DAILY 
6. FLUoxetine 10 mg PO DAILY 
7. Hydrochlorothiazide 12.5 mg PO DAILY 
8. Lisinopril 20 mg PO DAILY 
9. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
3.  Lidocaine 5% Patch 1 PTCH TD QPM  
4.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Not given during admission. Converted from tramadol due to 
potential drug interaction 
RX *oxycodone 5 mg ___ capsule(s) by mouth every 6 hours Disp 
#*4 Capsule Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
6.  amLODIPine 10 mg PO DAILY  
7.  BuPROPion 100 mg PO DAILY  
8.  FLUoxetine 10 mg PO DAILY  
9.  Hydrochlorothiazide 12.5 mg PO DAILY  
10.  Lisinopril 20 mg PO DAILY  
11.  Lithium Carbonate 150 mg PO QHS  
12.  OLANZapine 2.5 mg PO QHS  
13.  Omeprazole 20 mg PO DAILY  
14.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
L1 fracture
Urinary retention
Multilevel lumbar spondylosis 
Mild cervical spondylosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for further evaluation of your 
back pain. You were found to have a fracture of one of the bones 
in your spine. This can be due to many causes, one of which is 
osteoporosis. You were seen by the neurosurgery team. 
Fortunately, no surgical intervention is necessary but you will 
need to follow up in ___ weeks. You were given a brace to wear 
on your back and another on your neck at night.  You were seen 
by our physical therapy team and were advised to be discharged 
to rehab.

It will be important for you to follow up with your primary care 
physician to determine why you had this fracture.

It was a pleasure to be a part of your care,
Your ___ treatment team
 
Followup Instructions:
___